US08609698B2
1-(6-Hydrazinopyridin-3-yl)-N-methylmethanamine
1.0 g (6.4 mmol) of 1-(6-chloropyridin-3-yl)-N-methylmethanamine [for the preparation, see EP 0 556 684-A1] are initially charged in 1.5 ml (1.6 g, 31.9 mmol) of hydrazine hydrate and stirred at boiling point at a bath temperature of 150° C. for 12 h. The reaction solution is cooled and concentrated, and the residue is dried under reduced pressure. This gives 1.1 g of the title compound, which is used without any further purification.

reactant | 1-(6-chloropyridin-3-yl)-N-methylmethanamine | 6.4 mmol, 1.0 g | ClC1=CC=C(C=N1)CNC | C7H9ClN2
reactant | hydrazine hydrate | 31.9 mmol, 1.5 ml, 1.6 g | O.NN
product | 1-(6-Hydrazinopyridin-3-yl)-N-methylmethanamine | N(N)C1=CC=C(C=N1)CNC | C7H12N4
